US07358378B2
To a magnetically stirring solution of hexamethyldisilazane (39 g, 0.242 mol) in dry 1,2-dimethoxyethane (50 mL) under nitrogen with a circulation chiller at 0° C. was added a 2.5 M solution of n-butyllithium (84.0 mL, 0.21 mol) at a rate so as to control the exothermic reaction temperature to <30° C. (over 15 min) to generate the required LHMDS base in situ. Once the LHMDS solution temperature reached <−30° C., a neat solution of TMSCl (12 g, 0.11 mol) was added and the triethylsilyl-2-(triethylsiloxy)acetate (33.5 g, 0.11 mol) was added over 15 minutes to give the 1,2-bis(triethylsilyloxy)-1-(trimethylsilyloxy)ethene in situ as a mixture of geometrical isomers (6:1). Then, neat benzaldehyde (10.6 g, 0.10 mol) was added at a rate so as to control the exothermic reaction temperature to <−25° C. to give the N-trimethylsilyl-benzaldimine in situ. The hexanes solvent was removed under vacuum and the mixture was allowed to react at ambient temperature (22° C.) until 1HNMR monitoring indicated that the disappearance of the ketene acetal resonance at 5.43 ppm (CDCl3) had occurred after 14 h of reaction time. The reaction mixture was quenched with trimethylchlorosilane (TMSCl, 10.8 g, 1.0 mol), triethylamine (2.53 g, 0.025 mol) and acetic acid (0.60 g, 0.01 mol) while keeping the exothermic reaction temperature to <22° C. The mixture was diluted with hexanes (50 mL) and resulting lithium chloride salt was filtered off through a pad of celite (20 g) followed by washing the filter cake with hexanes (25 mL). The filtrate was concentrated under rotary vacuum evaporation to a residue. The residue was taken up in hexanes (50 mL), triethylamine (5 mL) and methanol at ambient temperature and stirred for 15 minutes. TLC analysis of the mixture eluting with ethyl acetate: hexanes (2:1) indicated complete conversion to the desired product (Rf=0.45) after 10 minutes of reaction time. The mixture was then diluted with ethyl acetate (100 mL), filtered through a pad of silica gel (25 g) and concentrated until crystals formed. The crystals were collected via vacuum filtration, washed with hexanes and dried to a constant weight of 7.68 g as a white free flowing powder. Upon standing for 2 h at ambient temperature, the filtrate gave 2.8 g of a second crop after harvest. The combined yield was 38%. Mp: 98 to 100° C. 1H NMR (400 MHz, CDCl3) δ (ppm): 0.44 (m, 6H), 0.78 (t,J=8.0 Hz, 9H), 4.80 (d, J=4.80, 1H), 5.08 (dd, 4.80, 2.80, 2H), 6.18 (bs, 1H), 7.28 to 7.38 (m, 5H).

reactant | hexamethyldisilazane | 0.242 mol, 39 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 0.21 mol, 84.0 mL | C(CCC)[Li]
reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | TMSCl | 0.11 mol, 12 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylsilyl-2-(triethylsiloxy)acetate | 0.11 mol, 33.5 g | C(C)[Si](CC)(CC)OC(CO[Si](CC)(CC)CC)=O | C14H32O3Si2
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
product | 1,2-bis(triethylsilyloxy)-1-(trimethylsilyloxy)ethene | C(C)[Si](OC(=CO[Si](CC)(CC)CC)O[Si](C)(C)C)(CC)CC | C17H40O3Si3
